US08497281B2
Step 1: 9-nitro-5,6-dihydro-benzo[f]quinoline
The title compound is prepared from 7-nitro-2-tetralone and propargylamine following a procedure analogous to that described in Step 1 of Intermediates 1 and 2. Yield: 41% of theory; LC (method 1): tR=2.20 min; Mass spectrum (ESI+): m/z=227 [M+H]+.

reactant | 7-nitro-2-tetralone | [N+](=O)([O-])C1=CC=C2CCC(CC2=C1)=O | C10H9NO3
reactant | propargylamine | C(C#C)N | C3H5N
product | 9-nitro-5,6-dihydro-benzo[f]quinoline | Yield: 41% | [N+](=O)([O-])C=1C=CC2=C(C=3C=CC=NC3CC2)C1 | C13H10N2O2
